US05990156
d) (4S,5R,6R)-5-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-6-dipropylcarbamoyl-5,6-dihydro-4H-pyran-2-carboxylic acid benzhydryl ester
To a solution of (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)-guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluoro-phenyl) ester (0.70 g) in dry tetrahydrofuran (5 ml) was added dipropylamine (0.141 g) and the reaction was stirred at 23° C. for 4 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel (Merck 9385, 50 g) using medium pressure (~4psi) and cyclohexane/ethyl acetate (1:1 v/v) as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a pale yellow foam. (0.341 g). 1H NMR (250MHz, D6 -DMSO) 11.46 (1H, s), 8.27 (1H, d, J=6.25 Hz), 8.16 (1H, d, J=7.5Hz), 7.48--7.27 (10H, m), 6.97 (1H, s), 6.14 (1H, d, J=5Hz), 5.18 (1H, m), 4.67 (1H, m), 4.10 (1H, m), 3.61--3.24 (3H, m), 3.14 (1H, m), 1.84 (3H, s), 1.60--1.34 (4H, m), 1.46 (9H, s), 1.40 (9H, s), 0.85 (3H, t, J=7Hz), 0.74 (3H, t, J=7Hz); Mass Analysis; C39H53N5O9. 1.0C6HF5O. Required: C, 58.75; H, 5.92; N, 7.61. Found C, 58.64; H, 5.75; N, 7.61.

reactant | (2R,3R,4S)-3-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)-guanidino]-3,4-dihydro-2H-pyran-2,6-dicarboxylic acid 6-benzhydryl ester 2-(2,3,4,5,6-pentafluoro-phenyl) ester | 0.70 g | FC1=C(C(=C(C(=C1F)F)F)F)OC(=O)[C@@H]1OC(=C[C@@H]([C@H]1NC(C)=O)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C39H39F5N4O10
reactant | dipropylamine | 0.141 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (4S,5R,6R)-5-Acetylamino-4-[2,3-bis(tert-butoxycarbonyl)guanidino]-6-dipropylcarbamoyl-5,6-dihydro-4H-pyran-2-carboxylic acid benzhydryl ester | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1O[C@H]([C@@H]([C@H](C1)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)NC(C)=O)C(N(CCC)CCC)=O | C39H53N5O9
